US04857643
A solution of 3-α-chloroacetyl-2-(o-methoxyphenoxy)methyl-thiazolidine (6 g) in acetone (80 ml) is heated to reflux temperature in the presence of sodium iodide (5 g) for 3 hours and then poured in ice and water (400 ml). The precipitate is collected, dissolved in methylene dichloride and washed with water, 5% aqueous NaHCO3, 2N sodium thiosulphate, water and dried on Na2SO4. After the usual work-up, the residue is crystallized from acetone and isopropanol to give 5.92 g of 3-α-iodoacetyl-2-(o-methoxyphenoxy)methyl-thiazolidine m.p. 81°-83° C. Using this procedure sodium bromide, the 3-α-bromoacetyl-2-(o-methoxyphenoxy)methyl-thiazolidine is obtained, m.p. 82°-84° C.

reactant | 3-α-chloroacetyl-2-(o-methoxyphenoxy)methyl-thiazolidine | 6 g | ClCC(=O)N1C(SCC1)COC1=C(C=CC=C1)OC | C13H16ClNO3S
reactant | sodium iodide | 5 g | [I-].[Na+]
solvent | acetone | 80 ml | CC(=O)C | C3H6O
solvent | water | 400 ml | O | H2O
product | 3-α-iodoacetyl-2-(o-methoxyphenoxy)methyl-thiazolidine | 5.92 g | ICC(=O)N1C(SCC1)COC1=C(C=CC=C1)OC | C13H16INO3S
